US09315521B2
4-methylpyrimidine-2-thiol hydrochloride (200 mg, 1.2 mmol) and potassium carbonate (357 mg, 2.6 mmol) was stirred for 30 minutes in anhydrous DMF (4 mL) at room temperature. Then, 2-(bromomethyl)-1,3,4-trichlorobenzene (345 mg, 1.3 mmol) in anhydrous DMF (1 mL) was added, and the mixture was stirred overnight at room temperature. The solid was removed by filtration and filtrate evaporation. The residue was dissolved in DCM and purified on silica gel using 5% DCM/MeOH to afford, after trituration with diethyl ether, 4-methyl-2-{[(2,3,6-trichlorophenyl)methyl]sulfanyl}pyrimidine as a white solid (88 mg, 22% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.44 (s, 3H), 4.75 (s, 2H), 6.09 (s, 1H), 7.17 (d, J=5.1 Hz, 1H), 7.58 (d, J=8.7 Hz, 1H), 7.67 (d, J=8.7 Hz, 1H), 8.54 (d, J=5.1 Hz, 1H); LRMS (ES+) m/z 319 (100%, M+1), 321 (100%, M+3), 323 (35%, M+5).

reactant | 4-methylpyrimidine-2-thiol hydrochloride | 1.2 mmol, 200 mg | Cl.CC1=NC(=NC=C1)S
reactant | potassium carbonate | 2.6 mmol, 357 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(bromomethyl)-1,3,4-trichlorobenzene | 1.3 mmol, 345 mg | BrCC1=C(C=CC(=C1Cl)Cl)Cl | C7H4BrCl3
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-methyl-2-{[(2,3,6-trichlorophenyl)methyl]sulfanyl}pyrimidine | 88 mg, 22% yield | CC1=NC(=NC=C1)SCC1=C(C(=CC=C1Cl)Cl)Cl | C12H9Cl3N2S
